US07105577B2
Preparation of m-phenoxyphenol
To a stirred solution of 49.5 g (0.45 mol) of resorcinol in 75 ml dry pyridine under nitrogen atmosphere, 16.2 g (0.3 mol) of Sodium methoxide was added. Heating started and methanol fractionally distilled off over a period of 0.5 hr. Bromobenzene, 142 g (0.9 mole) was run in to the reaction mixture followed by 2.2 g, of Cuprous chloride. Reaction mixture heated under reflux for 3–4 hr, pyridine distilled off while the pot temperature rose to 150° C. The residue was poured into 50 ml conc. HCl in 120 ml water and stirred. Organic material extracted in 200 ml benzene followed by washing with 25 ml of 20% HCl. Organic layer extracted with 100 ml of 10% NaOH solution followed by a second extraction With 20 ml of 10% NaOH. The combined aqueous extracts were acidified with, HClconc, liberated m-phenoxy phenol was extracted into benzene (300 ml). From the organic layer benzene was removed by distillation. Crude product purified by filtration over a column of silica.

reactant | resorcinol | 0.45 mol, 49.5 g | C1(O)=CC(O)=CC=C1 | C6H6O2
reactant | Sodium methoxide | 0.3 mol, 16.2 g | C[O-].[Na+]
solvent | pyridine | 75 ml | N1=CC=CC=C1 | C5H5N
product | m-phenoxyphenol | O(C1=CC=CC=C1)C=1C=C(C=CC1)O | C12H10O2
